US06747048B2
Compound 1e: 3,5-Dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethylaminopyridine
To a solution of 3,5-dichloro-2,6-difluoro-4-(3-isopropyl-4-methoxyphenoxy)pyridine. (584 mg) and glycine methyl ester hydrochloric acid (220 mg) in DMF (5.0 mL) was added potassium carbonate powder (500 mg) in one portion. The resulting mixture was stirred at ambient temperature for 20 hours. The reaction mixture was diluted with brine, extracted with ethyl acetate (50 mL×2). The combined organic layers were washed with brine (50 mL×3), dried (Na2SO4), and concentrated. Chromatography with ethyl acetate-hexanes (0-50% gradient elution) afforded the title compound as a colorless oil (434 mg, 62%).

reactant | 3,5-dichloro-2,6-difluoro-4-(3-isopropyl-4-methoxyphenoxy)pyridine | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)F)F | C15H13Cl2F2NO2
reactant | glycine methyl ester hydrochloric acid | 220 mg | Cl.COC(CN)=O
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 3,5-Dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethylaminopyridine | 434 mg, 62% | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)NCC(=O)OC)F | C18H19Cl2FN2O4
